US06268387B1
3-Amino -4-methoxy-N-(3,4-dimethylphenyl)-benzamide
Prepared according to the procedure described for Example 1 using oxalyl chloride (3.0 mL, 34.4 mmol), 4-methoxy-3-nitrobenzoic acid (5.00 g, 25.36 mmol), dimethylformamide (1.0 mL, 12.92 mmol), and 3,4-dimethylaniline (6.2 g, 51 mmol) to afford the product (5.99 g), m.p. 138-142° C.

reactant | oxalyl chloride | 34.4 mmol, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy-3-nitrobenzoic acid | 25.36 mmol, 5.00 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | dimethylformamide | 12.92 mmol, 1.0 mL | CN(C=O)C | C3H7NO
reactant | 3,4-dimethylaniline | 51 mmol, 6.2 g | CC=1C=C(N)C=CC1C | C8H11N
product | 3-Amino -4-methoxy-N-(3,4-dimethylphenyl)-benzamide | 5.99 g | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC1OC | C16H18N2O2
